US08809538B2
6-ethoxy-2-methyl-3-nitropyridine
To a stirred solution of 6-chloro-2-methyl-3-nitropyridine (2.15 g) in ethanol (25 mL) was added sodium ethoxide (4.88 mL) solution at room temperature. The reaction mixture immediately turned dark purple and was refluxed for 2 hours. The reaction mixture was allowed to cool down to room temperature, concentrated in vacuo, and poured into ice. The precipitated solids were collected by filtration to provide the title compound (1.88 g) having the following physical data.

reactant | 6-chloro-2-methyl-3-nitropyridine | 2.15 g | ClC1=CC=C(C(=N1)C)[N+](=O)[O-] | C6H5ClN2O2
reactant | sodium ethoxide | 4.88 mL | [O-]CC.[Na+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 6-ethoxy-2-methyl-3-nitropyridine | 1.88 g | C(C)OC1=CC=C(C(=N1)C)[N+](=O)[O-] | C8H10N2O3
